US04795748
Pentafluorophenyl 4-hydroxybenzoate
Pentafluorophenyl 4-acetoxybenzoate (10 g) in tetrahydrofuran was treated with 50 ml of 5M hydrochloric acid and 150 ml of tetrahydrofuran and stirred at room temperature overnight. The solvents were evaporated in vacuo to give a product which was purified by column chromatography (silica; ethyl acetate/hexane mixtures as eluant) to afford the title compound (8 g).

reactant | Pentafluorophenyl 4-acetoxybenzoate | 10 g | C(C)(=O)OC1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C15H7F5O4
reactant | hydrochloric acid | 5M, 50 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Pentafluorophenyl 4-hydroxybenzoate | 8 g | OC1=CC=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C13H5F5O3
